US09227978B2
2-(5,6-Dichloro-1H-indol-3-yl)acetic acid
A mixture of ethyl 2-(5,6-dichloro-1H-indol-3-yl)acetate (120 mg, 0.44 mmol), LiOH (90 mg, 2.20 mmol) in THF (3 mL) and H2O (1 mL) was stirred at RT for 16 h. The solution was poured into water, adjusted pH to 3-4 with 1N HCl and extracted with ethyl acetate. The organic layer was dried over Na2SO4 and concentrated in vacuo to afford the desired product (90 mg, 84.5% yield) as a yellow solid.

reactant | ethyl 2-(5,6-dichloro-1H-indol-3-yl)acetate | 0.44 mmol, 120 mg | ClC=1C=C2C(=CNC2=CC1Cl)CC(=O)OCC | C12H11Cl2NO2
reactant | LiOH | 2.20 mmol, 90 mg | [Li+].[OH-]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | H2O | 1 mL | O | H2O
product | 2-(5,6-Dichloro-1H-indol-3-yl)acetic acid | 90 mg, 84.5% yield | ClC=1C=C2C(=CNC2=CC1Cl)CC(=O)O | C10H7Cl2NO2
